US04621084
A solution of 5-bromoacetyl 2-benzothiazolinone (1.75g) and 3-methyl-2-aminopyridine [2.07 g] in acetonitrile [100 ml] was refluxed for 4 hours and the reaction mixture was evaporated in vacuo. To the residue was added a mixture of water, ethyl acetate and tetrahydrofuran. The resulting mixture was adJusted to pH 8.0 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo to afford a crystalline residue, which was recrystallized from a mixture of tetrahydrofuran and diethyl ether to give 5-(8-methylimidazo-[1,2-a]pyridin-2-yl)-2-benzothiazolinone (1.18 g). mp. 272° C. (dec.).

reactant | 5-bromoacetyl 2-benzothiazolinone | 1.75g | BrCC(=O)C=1C=CC2=C(NC(S2)=O)C1 | C9H6BrNO2S
reactant | 3-methyl-2-aminopyridine | 2.07 g | CC=1C(=NC=CC1)N | C6H8N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(8-methylimidazo-[1,2-a]pyridin-2-yl)-2-benzothiazolinone | 1.18 g | CC=1C=2N(C=CC1)C=C(N2)C=2C=CC1=C(NC(S1)=O)C2 | C15H11N3OS
